US07399778B2
To 1-(4-methoxybenzyl)-1H-pyrazole (Synthetic Comm. 25(5), 761-774 (1995)) (2.43 g, 12.9 mmol) in THF (100 mL) at −78° C. was added a solution of n-BuLi (2 M in cyclohexane, 7.1 mL, 14.2 mmol) dropwise. After 75 min, 2-ethylbutyraldehyde (1.3 mL, 10.6 mmol) was added. After 45 min the reaction mixture was quenched with saturated aqueous ammonium chloride (50 mL), extracted with EtOAc (3×100 mL), dried (Na2SO4) and concentrated. Column chromatography (EtOAc/hexanes, 1:4) provided 1.37 g (37%) of 2-ethyl-1-[1-(4-methoxybenzyl)-1H-pyrazol-5-yl]butan-1-ol as an oil.

reactant | 1-(4-methoxybenzyl)-1H-pyrazole | 12.9 mmol, 2.43 g | COC1=CC=C(CN2N=CC=C2)C=C1 | C11H12N2O
reactant | n-BuLi | 14.2 mmol, 2 M, 7.1 mL | [Li]CCCC
reactant | 2-ethylbutyraldehyde | 10.6 mmol, 1.3 mL | C(C)C(C=O)CC | C6H12O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-ethyl-1-[1-(4-methoxybenzyl)-1H-pyrazol-5-yl]butan-1-ol | 1.37 g, 37% | C(C)C(C(O)C1=CC=NN1CC1=CC=C(C=C1)OC)CC | C17H24N2O2
